US05025036
A mixture of 1.0 g (3.3 mmol) of 1-(6-bromohexyl)-2,3-dimethoxybenzene, 0.55 g (3.3 mmol) of 2,4-dihydroxybenzoic acid methyl ester, 1.2 g (9 mmol) of potassium carbonate and 0.75 g (4.5 mmol) of potassium iodide in 25 mL of acetone was stirred at reflux for 20 hours. Workup as in Example 16 gave 1.2 g of 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxybenzoic acid methyl ester as an oil.

reactant | 1-(6-bromohexyl)-2,3-dimethoxybenzene | 3.3 mmol, 1.0 g | BrCCCCCCC1=C(C(=CC=C1)OC)OC | C14H21BrO2
reactant | 2,4-dihydroxybenzoic acid methyl ester | 3.3 mmol, 0.55 g | COC(C1=C(C=C(C=C1)O)O)=O | C8H8O4
reactant | potassium carbonate | 9 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4.5 mmol, 0.75 g | [I-].[K+]
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-[6-(2,3-dimethoxyphenyl)hexyloxy]-2-hydroxybenzoic acid methyl ester | 1.2 g | COC(C1=C(C=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OC)OC)O)=O | C22H28O6
